US06605607B1
3-(3-Bromophenyl)-5-methyl-1,2,4-oxadiazole
Potassium tert-butoxide (7.33 g, 65.4 mmol) was added over 5 minutes to ice chilled, stirred methanol under argon. After a further 5 min hydroxylamine hydrochloride (4.9 g, 70.43 mmol) was added in one portion and the resultant mixture stirred at room temperature for 1 h. A solution of 3-bromobenzonitrile (7.93 g, 43.6 mmol) in methanol (120 ml) was added in one portion and the mixture heated at reflux for 4 h, cooled filtered, and the filtrate evaporated in vacuo. The residue was refluxed in acetic anhydride (60 ml) for 3 h, cooled to room temperature and poured into ice-water (300 ml). The precipitate was filtered, washed with water, dried in vacuo and chromatographed on silica eluting with 0-10% ethyl, acetate-hexane gradient. Fractions containing desired product were pooled and evaporated in vacuo and the residue recrystallised from hexane to afford the title compound as colourless crystals (5.2 g, 50%).

reactant | Potassium tert-butoxide | 65.4 mmol, 7.33 g | CC(C)([O-])C.[K+]
reactant | hydroxylamine hydrochloride | 70.43 mmol, 4.9 g | Cl.NO
reactant | 3-bromobenzonitrile | 43.6 mmol, 7.93 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
solvent | methanol | 120 ml | CO | CH4O
product | 3-(3-Bromophenyl)-5-methyl-1,2,4-oxadiazole | 5.2 g, 50% | BrC=1C=C(C=CC1)C1=NOC(=N1)C | C9H7BrN2O
